US04447618
A stirred charge containing 44 g (0.2 mol) of 2-thioxo-3-benzothiazolinepropionitrile and 600 ml of 30% sulfuric acid (by volume) was heated at reflux (114°-116° C.) for 2 hours. After cooling to 25° C., 400 ml of water was added and stirring continued at 25°-30° C., for 15 minutes. The solid was collected by filtration, washed with water until neutral to litmus and air-dried at 50° C. The product, 2-thioxo-3(2H)-benzothiazolepropionic acid, m.p. 164°-165° C., was obtained in 96% yield, after recrystallization from NaOH/HCl, m.p. 167°-168° C.

reactant | 2-thioxo-3-benzothiazolinepropionitrile | 0.2 mol, 44 g | S=C1SC2=C(N1CCC#N)C=CC=C2 | C10H8N2S2
reactant | sulfuric acid | 600 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 400 ml | O | H2O
product | 2-thioxo-3(2H)-benzothiazolepropionic acid | 96% yield | S=C1SC2=C(N1CCC(=O)O)C=CC=C2 | C10H9NO2S2
